US07750038B2
7-Fluoroindoline (1.1 g, 8.0 mmol) was dissolved in acetonitrile (80 mL), cooled to 0° C., and N-bromosuccinimide (1.43 g, 8.0 mmol) was added. The mixture was warmed to 25° C. and stirred for 3 hours. The mixture was concentrated to 10 mL and diluted with ethyl acetate and washed with NaHCO3, water, brine, dried over anhydrous magnesium sulfate, and concentrated. Purification via Isco chromatography (the Redisep® column, silica, gradient 5%-15% ethyl acetate in hexane) afforded 5-bromo-7-fluoroindoline (1.05 g). MS (ES) m/z 215.8; HPLC purity 97.6% at 210-370 nm, 10.5 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 7-Fluoroindoline | 8.0 mmol, 1.1 g | FC=1C=CC=C2CCNC12 | C8H8FN
reactant | N-bromosuccinimide | 8.0 mmol, 1.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 5-bromo-7-fluoroindoline | 1.05 g | BrC=1C=C2CCNC2=C(C1)F | C8H7BrFN
